US06759414B2
B. N-(5-Chloropyridin-2-yl)-5-methylthio-2-nitrobenzamide
To a stirring solution of sodium methylsulfide (0.13 g, 2 mmol) in N,N-dimethylformamide (20 mL) was added N-(5-chloropyridin-2-yl)-5-fluoro-2-nitrobenzamide (0.48 g, 1.6 mmol) and additional N,N-dimethylformamide (5 mL). The reaction solution was stirred overnight at room temperature and concentrated in vacuo. The resulting residue was partitioned between dichloromethane and water and the layers separated. The organic phase was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was slurried in diethyl ether and filtered to give 0.33 g (63%) of a yellow solid.

reactant | sodium methylsulfide | 2 mmol, 0.13 g | CSC.[Na]
reactant | N-(5-chloropyridin-2-yl)-5-fluoro-2-nitrobenzamide | 1.6 mmol, 0.48 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C12H7ClFN3O3
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(5-Chloropyridin-2-yl)-5-methylthio-2-nitrobenzamide | 0.33 g, 63% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)SC)[N+](=O)[O-])=O | C13H10ClN3O3S
